US06251936B1
2-Amino-6-bromo-4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-phenol
Using a procedure similar to Tet. Lett. 1990, 1181-1182, Montmorillinite K10 clay (1.4 g) was added to a solution of 2-bromo-4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2-nitro-phenol (1.2 g, 2.37 mmol), anhydrous hydrazine (1 mL) and ethanol (7.2 mL) and the suspension was heated at 85° C. for 1 h. The reaction mixture was cooled to room temperature and concentrated. The residue was twice flash chromatographed (first time, eluent: ether, second time, eluent: 4:1 petrolerum ether ethyl acetate) to provide the title compound as a white solid (0.741 g, 66%): NMR (DMSO-d6); δ8.16 (ddd, J=8, 1, 1 Hz, 1H), 7.65-7.60 (m, 2 H), 7.47 (ddd, J=8, 6, 1 Hz, 1H), 6.65 (d, J=2 Hz, 1H), 6.57 (d, J=2 Hz, 1H), 2.43 (d, J=1 Hz, 3H), 1.73 (d, J=1 Hz, 3H); MS (EI): 2 bromine isotope pattern 475 (50%, M+H), 477 (100%, M+H), 479 (50%, M+H); Anal. Calc. for C20H15Br2NOS: C, 50.34; H, 3.17; N, 2.94. Found: C, 51.35; H, 3.35; N, 2.72.

reactant | 2-bromo-4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2-nitro-phenol | 2.37 mmol, 1.2 g | BrC1(C(C=CC(=C1)C1=C2C=CC=CC2=C(C=2SC(=C(C21)C)C)Br)O)[N+](=O)[O-] | C20H15Br2NO3S
reactant | hydrazine | 1 mL | NN | H4N2
reactant | ethanol | 7.2 mL | C(C)O | C2H6O
product | 2-Amino-6-bromo-4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-phenol | 0.741 g, 66% | NC1=C(C(=CC(=C1)C1=C2C=CC=CC2=C(C=2SC(=C(C21)C)C)Br)Br)O | C20H15Br2NOS
